US04925879
A solution of 1-[1-(4-chlorophenyl)cyclobutyl]-3-hydroxy-3-methylpentan-1-one oxime (4.6 g) in dry 1,2-dimethoxyethane (16 ml) was added at 0° C. over a period of 40 minutes to the mixture prepared by adding titanium (IV) chloride (3.6 ml) dropwise and then sodium borohydride (2.5 g) portionwise to stirred dry 1,2-dimethoxyethane (62 ml) at 0° C. under nitrogen. The reaction mixture was stirred for 14 hours at room temperature under nitrogen and cooled to 0° C. Water (160 ml) was added dropwise and the mixture basified by the addition of aqueous ammonia solution (17 ml-S.G. 0.880) and extracted with ether. The extracts were washed with brine, dried and the solvent removed to yield 1-amino-1-[1-(4-chlorophenyl)cyclobutyl]-3-methylpentan-3-ol which was dissolved in ether (70 ml). A solution of maleic acid (1.8 g) in ether (170 ml) was added and 1-Amino-1-[1-(4-chlorophenyl)cyclobutyl]-3-methylpentan-3-ol maleate (m.p. 106° C. (dec) softens 101° C.) was deposited.

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-3-hydroxy-3-methylpentan-1-one oxime | 4.6 g | ClC1=CC=C(C=C1)C1(CCC1)C(CC(CC)(C)O)=NO | C16H22ClNO2
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | Water | 160 ml | O | H2O
reactant | ammonia | 17 ml | N | H3N
solvent | 1,2-dimethoxyethane | 16 ml | COCCOC | C4H10O2
catalyst | titanium (IV) chloride | 3.6 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | 1,2-dimethoxyethane | 62 ml | COCCOC | C4H10O2
product | 1-amino-1-[1-(4-chlorophenyl)cyclobutyl]-3-methylpentan-3-ol | NC(CC(CC)(O)C)C1(CCC1)C1=CC=C(C=C1)Cl | C16H24ClNO
